US04962109
A solution of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.276 g) in dry dichloromethane (6 cm3) was added to a stirred solution of (RS)-2-(2-methylpyrimidin-5-yl)-3,3-dimethylbutanoic acid (0.3 g) and 4-(methoxymethyl)-2,3,5,6-tetrafluorobenzylalcohol (0.33 g) containing a catalytic amount of 4-(N,N'-dimethylamino) pyridine. The stirred mixture was maintained at the ambient temperature for 2 hours, and left to stand overnight. The reaction solution was washed with water, dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent under reduced pressure. The residue was subjected to column chromatography on silica gel using a 1:1 (by volume) mixture of ethyl acetate and dichloromethane as eluent to give 2,3,5,6-tetrafluoro-4-(methoxymethyl)benzyl (RS)-2-(2-methylpyrimidin-5-yl)-3,3-dimethylbutanoate (0.228 g) as a yellow oil.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.276 g | Cl.C(C)N=C=NCCCN(C)C
reactant | (RS)-2-(2-methylpyrimidin-5-yl)-3,3-dimethylbutanoic acid | 0.3 g | CC1=NC=C(C=N1)C(C(=O)O)C(C)(C)C | C11H16N2O2
reactant | 4-(methoxymethyl)-2,3,5,6-tetrafluorobenzylalcohol | 0.33 g | COCC1=C(C(=C(CO)C(=C1F)F)F)F | C9H8F4O2
solvent | dichloromethane | 6 cm3 | ClCCl | CH2Cl2
catalyst | 4-(N,N'-dimethylamino) pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2,3,5,6-tetrafluoro-4-(methoxymethyl)benzyl (RS)-2-(2-methylpyrimidin-5-yl)-3,3-dimethylbutanoate | 0.228 g | CC1=NC=C(C=N1)C(C(=O)OCC1=C(C(=C(C(=C1F)F)COC)F)F)C(C)(C)C | C20H22F4N2O3
